US06340758B1
Synthesis of 6-Methyl-7-nitro-2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-5-carboxylic acid methyl ester (8)
To a solution of 6-methyl-2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-5-carboxylic acid, methyl ester (1.11 g, 4.74 mmol) in conc. H2SO4 (15 mL) at room temperature was added in one portion with vigorous stirring potassium nitrate (0.529 g, 5.23 mmol). The reaction mixture was stirred for 23 hours and poured over ice. The precipitated product was thoroughly washed with water upon collection to give 1.28 g (97%).

reactant | 6-methyl-2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-5-carboxylic acid, methyl ester | 4.74 mmol, 1.11 g | CC1=C(C=2NC(C(NC2C=C1)=O)=O)C(=O)OC | C11H10N2O4
reactant | potassium nitrate | 5.23 mmol, 0.529 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 15 mL | OS(=O)(=O)O | H2O4S
product | 6-Methyl-7-nitro-2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-5-carboxylic acid methyl ester | COC(=O)C=1C=2NC(C(NC2C=C(C1C)[N+](=O)[O-])=O)=O | C11H9N3O6
